US08466186B2
(a) 3-Amino-2,4-difluoro-benzylamine
A mixture of 3-Nitro-2,4-difluoro-benzonitrile (0.50 g, 2.7 mmol), MeOH (25 ml), 37% HCl (1.5 ml) and Pd/C (200 mg) was stirred for 13 h at rt under a hydrogen atmosphere (3 bar). The catalyst was removed by filtration and the filtrate was concentrated.

reactant | 3-Nitro-2,4-difluoro-benzonitrile | 2.7 mmol, 0.50 g | [N+](=O)([O-])C=1C(=C(C#N)C=CC1F)F | C7H2F2N2O2
reactant | HCl | 1.5 ml | Cl | ClH
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | MeOH | 25 ml | CO | CH4O
product | 3-Amino-2,4-difluoro-benzylamine | NC=1C(=C(CN)C=CC1F)F | C7H8F2N2
